US07786114B2
To a solution of 8 g of 5,6-dimethoxy-1H-pyrrolo[3,2-b]pyridine in 150 cm3 of DMF, under an inert atmosphere of argon at a temperature in the region of 20° C., are added dropwise 12 g of iodine in 150 cm3 of DMF. The reaction medium is stirred at this same temperature for 2 hours, and a solution of 11.8 g of di-tert-butyl dicarbonate in 100 cm3 of DMF is then added dropwise. The reaction medium is stirred at this same temperature for 1 hour. The reaction medium is poured onto 300 cm3 of ice-water. The solid formed is filtered off on a sinter funnel and then washed with water. The solid is taken up in 250 cm3 of dichloromethane. After separation of the phases by settling, the organic phase is dried over sodium sulfate, filtered and then concentrated under reduced pressure. 16.7 g of 1-t-butyloxycarbonyl-3-iodo-5,6-dimethoxy-1H-pyrrolo[3,2-b]pyridine are thus obtained with the following characteristics:

reactant | 5,6-dimethoxy-1H-pyrrolo[3,2-b]pyridine | 8 g | COC1=C(C=C2C(=N1)C=CN2)OC | C9H10N2O2
reactant | iodine | 12 g | II | I2
reactant | di-tert-butyl dicarbonate | 11.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 150 cm3 | CN(C)C=O | C3H7NO
solvent | DMF | 150 cm3 | CN(C)C=O | C3H7NO
solvent | DMF | 100 cm3 | CN(C)C=O | C3H7NO
product | 1-t-butyloxycarbonyl-3-iodo-5,6-dimethoxy-1H-pyrrolo[3,2-b]pyridine | 16.7 g | C(C)(C)(C)OC(=O)N1C=C(C2=NC(=C(C=C21)OC)OC)I | C14H17IN2O4
